US07947706B2
To a solution of 930 mg of sodium in 50 mL of absolute ethanol are rapidly added 26 mL of diethyl oxalate. The reaction medium is stirred for 15 minutes at 20° C. A solution of 3.8 g of 4-methyl-3-nitropyridine in 50 mL of absolute ethanol is then added dropwise over 1 hour. The reaction medium is stirred for 4 hours at a temperature in the region of 20° C. and then concentrated under reduced pressure. The residue is taken up in 100 mL of ethyl ether and then filtered. The solid is stirred with 40 mL of 5N hydrochloric acid and then filtered, washed with water and dried under vacuum at 40° C. to give 6.2 g of ethyl 3-(3-nitro-4-pyridyl)-2-oxopropionate having the following characteristics:

reactant | sodium | 930 mg | [Na] | Na
reactant | diethyl oxalate | 26 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 4-methyl-3-nitropyridine | 3.8 g | CC1=C(C=NC=C1)[N+](=O)[O-] | C6H6N2O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | ethyl 3-(3-nitro-4-pyridyl)-2-oxopropionate | 6.2 g | [N+](=O)([O-])C=1C=NC=CC1CC(C(=O)OCC)=O | C10H10N2O5
